US05100891
7-Chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]indol-3-(2H)-one (8.0 g) was suspended in EtOH (200 ml) and a solution of NaOAc (15.6 g) in water (25 ml) and a solution of hydroxylamine hydrochloride (8.0 g) in water (25 ml) were added and the mixture was refluxed for 3 hours. The mixture was concentrated in vacuo and the residue was recrystallized from 95% EtOH to provide 3-hydroxyimino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol as an off-white solid. The oxime was dissolved in tetrahydrofuran (100 ml), and thereafter acetic anhydride (8.1 g) and 4-dimethylaminopyridine (400 mg) were added and the mixture was stirred under nitrogen at ambient temperature overnight. The mixture was concentrated in vacuo, CH2Cl2 (100 ml) was added and the solution was washed successively with water (50 ml), 5% NaHCO3 (50 ml) and water (50 ml). After drying (Na2SO4), the solvent was removed in vacuo and the product recrystallized form EtOH to provide 3-acetyloximino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol-7-yl acetate (1.7 g).

reactant | 7-Chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]indol-3-(2H)-one | 8.0 g | ClCC(=O)OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C14H12ClNO3
reactant | NaOAc | 15.6 g | CC(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 8.0 g | Cl.NO
solvent | EtOH | 200 ml | CCO | C2H6O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 3-hydroxyimino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol | ON=C1CCC2=C1N(C=1C=CC(=CC21)O)C | C12H12N2O2
